US06001276
In a 1 liter-glass flask equipped with a 500 W moderate-pressure mercury lamp, 100 g (1.02 M) of maleic anhydride and 1 kg of ethyl acetate were placed and mixed to provide a homogeneous solution. Under stirring in an agron atmosphere, the solution was irradiated with light by using the mercury lamp for 8 hours at 20° C. to precipitate a crystal. After the reaction, the crystal was recovered by filtration to obtain 3.3 g of cyclobutanetetracarboxylic dianhydride (100% trans form).

reactant | maleic anhydride | 1.02 M, 100 g | C1(\C=C/C(=O)O1)=O | C4H2O3
catalyst | mercury | [Hg] | Hg
solvent | ethyl acetate | 1 kg | C(C)(=O)OCC | C4H8O2
product | cyclobutanetetracarboxylic dianhydride | 3.3 g, 100% | C12C(C3C1C(=O)OC3=O)C(=O)OC2=O | C8H4O6
